US08563718B2
7-(1-ethyl-propyl)-3-(2,4-dichloro-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (15.2 g, 41.16 mmoles) is charged into a 250 mL 3-necked round bottomed flask, followed by addition of 2-MeTHF (61 mL, 4.0 volumes), the yellowish brown slurry is stirred at about 20° C. for 5 min. Then morpholine (19 g, 218.18 mmoles) is added over 2-5 minutes. Contents are heated to reflux and maintained at reflux for 12 hr. The slurry is cooled to 25° C., followed by addition of 2-MeTHF (53 mL, 3.5 volumes) and water (38 mL 2.5 volumes). The reaction mixture is warmed to 40° C., where upon a homogenous solution with two distinct layers formed. The layers are separated, the organic layer is filtered and concentrated to ˜3 volumes at atmospheric pressure. Four volumes 2-propanol (61 mL) are added. The solution is concentrated to ˜3 volumes followed by addition of 4 volumes 2-propanol (61 mL), re-concentrated to ˜3 volumes, followed by addition of another 6 volumes 2-propanol (91 mL), and refluxed for 15 min. The clear solution is gradually cooled to 75° C., seeded with 0.45 g 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine slurried in 2 mL 2-propanol, rinsed with an additional 2 mL 2-propanol and transferred to a crystallization flask. The slurry is cooled to between 0-5° C., maintained for 1 hr, filtered and the product rinsed with 2-propanol (30 mL, 2 volumes). The solid is dried at 60° C. in a vacuum oven to afford 16.92 g 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine. Purity of product by HPLC assay is 100.00%. XRPD and DSC data of product is consistant with reference sample. MS (ES)=420 (M+1).

reactant | 7-(1-ethyl-propyl)-3-(2,4-dichloro-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 41.16 mmoles, 15.2 g | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)Cl)Cl)C)C | C16H18Cl2N4S
reactant | 2-MeTHF | 61 mL | CC1CCCO1 | C5H10O
reactant | morpholine | 218.18 mmoles, 19 g | N1CCOCC1 | C4H9NO
reactant | 2-MeTHF | 53 mL | CC1CCCO1 | C5H10O
solvent | water | 38 mL | O | H2O
product | 7-(1-ethyl-propyl)-3-(4-chloro-2-morpholin-4-yl-thiazol-5-yl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 16.92 g | C(C)C(CC)C1=CC(=NC=2N1N=C(C2C2=C(N=C(S2)N2CCOCC2)Cl)C)C | C20H26ClN5OS
